US06376548B1
Carbonic acid chloromethyl ester 2,6-dibromo-4-cyanophenyl ester (Compound 4-1 of Table 4)
To a suspension of 3,5-dibromo-4-hydroxybenzonitrile (10.0 g, 36.1 mmol) in 180 mL of chloroform was added pyridine (2.92 ml, 36.1 mmol). Chloromethylchloroformate (5.2 mL 60 mmol) was then added over 5 min. The mixture was allowed to stir at room temperature for 12 h. The reaction was then washed with 1% HCl aq, water, and brine. The organic layer was then dried over sodium sulfate, filtered, and evaporated to afford a white solid (12.5 g) in 94% yield. 1H-NMR (300 MHz, CDCl3) δ (ppm): 5.87 (d, 2H), 7.90 (s, 2H). 13C-NMR (300 MHz, CDCl3) δ (ppm): 73.58, 113.87, 115.68, 119.01, 136.40, 149.53, 149.71. Mp=83-85° C.

reactant | 3,5-dibromo-4-hydroxybenzonitrile | 36.1 mmol, 10.0 g | BrC=1C=C(C#N)C=C(C1O)Br | C7H3Br2NO
reactant | pyridine | 36.1 mmol, 2.92 ml | N1=CC=CC=C1 | C5H5N
reactant | Chloromethylchloroformate | 60 mmol, 5.2 mL | ClCOC(=O)Cl | C2H2Cl2O2
solvent | chloroform | 180 mL | C(Cl)(Cl)Cl | CHCl3
product | Carbonic acid chloromethyl ester 2,6-dibromo-4-cyanophenyl ester | 12.5 g, 94% yield | BrC1=C(C(=CC(=C1)C#N)Br)OC(OCCl)=O | C9H4Br2ClNO3
